US07060844B2
3-{5-[Methyl-(2-morpholin-4-yl-ethyl)-amino]-3H-isobenzofuran-1-ylidene}-1,3-dihydro-indol-2-one
A mixture of 3-{5-[(2-chloro-ethyl)-methyl-amino]-3H-isobenzofuran-1-ylidene}-1,3-dihydro-indol-2-one (1.20 g, 3.52 mmol) and morpholine (3 ml, 34.4 mmol) in DMF (5 ml) was heated at 110° C. under nitrogen for 16 hours. The mixture was cooled to room temperature and was then poured into water (100 ml). The solid was filtered, washed with water and dried under vacuum to give a crude product. Purification of the crude product by silica gel column chromatography, eluted with a gradient of MeOH in CHCl3, resulted in 3-{5-[methyl-(2-morpholin-4-yl-ethyl)-amino]-3H-isobenzofuran-1-ylidene}-1,3-dihydro-indol-2-one as a yellow solid (0.57 g, 41%).

reactant | 3-{5-[(2-chloro-ethyl)-methyl-amino]-3H-isobenzofuran-1-ylidene}-1,3-dihydro-indol-2-one | 3.52 mmol, 1.20 g | ClCCN(C=1C=C2COC(C2=CC1)=C1C(NC2=CC=CC=C12)=O)C | C19H17ClN2O2
reactant | morpholine | 34.4 mmol, 3 ml | N1CCOCC1 | C4H9NO
reactant | water | 100 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-{5-[Methyl-(2-morpholin-4-yl-ethyl)-amino]-3H-isobenzofuran-1-ylidene}-1,3-dihydro-indol-2-one | CN(C=1C=C2COC(C2=CC1)=C1C(NC2=CC=CC=C12)=O)CCN1CCOCC1 | C23H25N3O3
